US06329370B1
3-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-propionic acid ethyl ester (Compound 72)
Operating analogously at what described in example 48 starting from 3-(4-chloro-6-methoxy-phthalazin-1-yl)-propionic acid ethyl ester (4.5 g, 0.0153 mole), prepared as described in example 121, zinc (2.2 g), 2-bromothiazole (5 g, 0.0305 mole), palladium acetate (180 mg, 0.8 mmole), triphenyphosphine (630 mg, 2.4 mmoles), 1.4 g of the title compound were obtained (yield: 21%). m.p.: 153-154° C.

reactant | 3-(4-chloro-6-methoxy-phthalazin-1-yl)-propionic acid ethyl ester | 0.0153 mole, 4.5 g | C(C)OC(CCC1=NN=C(C2=CC(=CC=C12)OC)Cl)=O | C14H15ClN2O3
reactant | 2-bromothiazole | 0.0305 mole, 5 g | BrC=1SC=CN1 | C3H2BrNS
reactant | triphenyphosphine | 2.4 mmoles, 630 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | zinc | 2.2 g | [Zn] | Zn
catalyst | palladium acetate | 0.8 mmole, 180 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-propionic acid ethyl ester | 1.4 g, yield: 21% | C(C)OC(CCC1=NN=C(C2=CC(=CC=C12)OC)C=1SC=CN1)=O | C17H17N3O3S
